US04975431
1-(3-Chlorophenyl)-1-(6,7,8,9-tetrahydro-3-methyl-5H-cyclohepta[b]pyrid 2-yl)methanol
To a solution of 1.6M n-butyl lithium in n-hexane (16.5 ml) in toluene (20 ml) at -20° C. under nitrogen was added a solution of 2-bromo-6,7,8,9-tetrahydro 3-methyl-5H-cyclohepta[b]pyridine (6.0 g, 0.025 m) in toluene (30 ml). The reaction mixture was kept at -20° C. for 0.25 hours and then blown over into a cooled solution of 3-chlorobenzaldehyde (3.7 g) in toluene (30 ml) at -20° C., and allowed to warm to room temperature. Water was added and the separated organic phase extracted with 2N hydrochloric acid. This was basified with solid potassium carbonate and extracted with chloroform. The combined chloroform extracts were washed with water, dried (MgSO4) and evaporated. The solid was purified by passing through a short silica column, eluted with chloroform, then re-crystallised from diethyl ether to give the title compound (4.31 g) m.p. 123°-5° C.

reactant | n-butyl lithium | 1.6M | C(CCC)[Li]
reactant | 2-bromo-6,7,8,9-tetrahydro 3-methyl-5H-cyclohepta[b]pyridine | 6.0 g | BrC1=C(C=C2C(=N1)CCCCC2)C | C11H14BrN
reactant | 3-chlorobenzaldehyde | 3.7 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | Water | O | H2O
solvent | n-hexane | 16.5 ml | CCCCCC | C6H14
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3-Chlorophenyl)-1-(6,7,8,9-tetrahydro-3-methyl-5H-cyclohepta[b]pyrid 2-yl)methanol | 4.31 g | ClC=1C=C(C=CC1)C(O)C1=C(C=C2C(=N1)CCCCC2)C | C18H20ClNO
